### PR TITLE
[Merged by Bors] - feat: Port `Combinatorics.SimpleGraph.Basic`

### PR DESCRIPTION
**Pull request by 0art0**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by kmill** [comment]
@0art0 I hope you don't mind that I went ahead and finished porting this file. I wanted to see if there were any technical challenges or things that needed some knowledge about why things were written the way they were, then one thing led to another and I got to the end.

It's still going through CI so I might have missed something. Also, I did my best to go through the documentation and update names, so hopefully nothing was missed.

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 1]
```diff
@@ -1772,17 +1714,27 @@ def mapNeighborSet (v : V) : G.neighborSet v ↪ G'.neighborSet (f v)
 
 /-- Given an injective function, there is an embedding from the comapped graph into the original
 graph. -/
-@[simps]
+-- porting note: @[simps] does not work here
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1717]: What is the error? Does `@[simps!]` work?

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 2]
```diff
@@ -1772,17 +1714,27 @@ def mapNeighborSet (v : V) : G.neighborSet v ↪ G'.neighborSet (f v)
...
 #align simple_graph.embedding.comap SimpleGraph.Embedding.comap
 
+@[simp]
+theorem comap_apply (f : V ↪ W) (G : SimpleGraph W) (v : V) :
+  SimpleGraph.Embedding.comap f G v = f.toFun v := rfl
+#align simple_graph.embedding.comap_apply SimpleGraph.Embedding.comap_apply
+
 /-- Given an injective function, there is an embedding from a graph into the mapped graph. -/
-@[simps]
+-- porting note: @[simps] does not work here
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1728]: Idem

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 3]
```diff
@@ -1862,50 +1843,71 @@ def mapEdgeSet : G.edgeSet ≃ G'.edgeSet
...
-  convert (Fintype.ofEquiv_card f.to_equiv).symm
+  rw [← Fintype.ofEquiv_card f.toEquiv]
+  -- porting note: need to help it to find the typeclass instances from the target expression
+  apply @Fintype.card_congr' _ _ (_) (_) rfl
 #align simple_graph.iso.card_eq_of_iso SimpleGraph.Iso.card_eq_of_iso
 
 /-- Given a bijection, there is an embedding from the comapped graph into the original
 graph. -/
-@[simps]
+-- porting note: `@[simps]` does not work here anymore
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1880]: Idem

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean [hunk 4]
```diff
@@ -1862,50 +1843,71 @@ def mapEdgeSet : G.edgeSet ≃ G'.edgeSet
...
+#align simple_graph.iso.comap_apply SimpleGraph.Iso.comap_apply
+
+@[simp]
+lemma comap_symm_apply (f : V ≃ W) (G : SimpleGraph W) (w : W) :
+  (SimpleGraph.Iso.comap f G).symm w = f.symm w := rfl
+#align simple_graph.iso.comap_symm_apply SimpleGraph.Iso.comap_symm_apply
+
 /-- Given an injective function, there is an embedding from a graph into the mapped graph. -/
-@[simps]
+-- porting note: `@[simps]` does not work here anymore
```
Comment (jcommelin) [inline Mathlib/Combinatorics/SimpleGraph/Basic.lean:1896]: Idem

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by 0art0** [comment]
@kmill Thanks a lot! I was meaning to tackle this earlier, but partly due to not having a proper working Lean set-up for the past few weeks and partly because I was caught up in other things, I did not make further progress on the PR. I am glad to see that it's done - there is some Lean3 code using on simple graphs that I would like to port over to Lean4.

File: Mathlib/Combinatorics/SimpleGraph/Basic.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Combinatorics/SimpleGraph/Basic.lean]: I've added to the porting note.

Floris said `simps` doesn't actually support this case, and it only supported it in Lean 3 because the `{... with ...}` notation would fill in each field individually. Like this works:
```lean
@[simps]
protected def comap (f : V ↪ W) (G : SimpleGraph W) : G.comap f ↪g G :=
  { toFun := f, inj' := f.inj', map_rel_iff' := by simp }
```
He said we shouldn't write it this way though.

It sounds like Floris might get around to figuring out how to support this properly once some open simps PRs get merged.
